US05710314
A solution of 14.2 g of 3-difluoromethoxy-2-(o-tolyl)-acrylic acid methyl ester and 0.15 g of dibenzoyl peroxide in 85 ml of carbon tetrachloride is heated to reflux. With radiation from a lamp, 10.44 g of N-bromosuccinimide are then added in several small portions and the reaction mixture is left to react for 1.5 hours. After cooling to room temperature, the reaction mixture is filtered and concentrated by evaporation in vacuo. The pale red crude product is purified by chromatography on silica gel with hexane/ethyl acetate and crystallised from hexane. Pure 2-(2-bromomethylphenyl)-3-difluoromethoxy-acrylic acid methyl ester is obtained; m.p. 63°-67° C.

reactant | 3-difluoromethoxy-2-(o-tolyl)-acrylic acid methyl ester | 14.2 g | COC(C(=COC(F)F)C1=C(C=CC=C1)C)=O | C12H12F2O3
reactant | dibenzoyl peroxide | 0.15 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 10.44 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 85 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(2-bromomethylphenyl)-3-difluoromethoxy-acrylic acid methyl ester | COC(C(=COC(F)F)C1=C(C=CC=C1)CBr)=O | C12H11BrF2O3
